US09326973B2
Neat 1,2-dibromoethane (0.094 g, 0.500 mmol) was added to a suspension of zinc (1.308 g, 20.00 mmol) in THF (7 mL). The reaction mixture was sonicated for 3 h and cooled to rt and was added with titanocene dichloride (0.062 g, 0.250 mmol) and stirred for 10-15 min. A solution of tetrahydro-2H-pyran-2-one (0.501 g, 5 mmol) in THF (3 ml) was added, then followed by addition of a solution of ethyl 2-bromo-2,2-difluoroacetate (1.218 g, 6.0 mmol) in THF (3 mL) and the mixture was stirred at rt overnight. The reaction was cooled (0° C.) and diluted with ether and washed with 1 N HCl, water, brine and dried (MgSO4). Evaporation of solvents afforded an oil which was purified by silica gel FCC (5-10% EtOAc in DCM) to afford ethyl 2,2-difluoro-2-(2-hydroxytetrahydro-2H-pyran-2-yl)acetate as a clear oil (365 mg, 32.5%). A neat mixture of ethyl 2,2-difluoro-2-(2-hydroxytetrahydro-2H-pyran-2-yl)acetate (˜200 mg), triethylsilane (0.799 mL, 5.00 mmol) and TFA (0.385 mL, 5.00 mmol) was heated at 60° C. for 3 h and evaporated to dryness to afford an oil which was purified by silica gel FCC (DCM0 to yield ethyl 2,2-difluoro-2-(tetrahydro-2H-pyran-2-yl)acetate as a clear oil (145 mg, 78%) which was saponified (1 N NaOH, THF-MeOH, rt) to provide Cap P-35 as a white solid (75 mg, 83%). 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.35-7.13 (m, 1H), 4.14-4.05 (m, J=11.2, 4.3 Hz, 1H), 3.95-3.82 (m, 1H), 3.57-3.47 (m, J=11.7, 11.7, 2.3 Hz, 1H), 2.05-1.94 (m, 1H), 1.86-1.76 (m, 1H), 1.73-1.50 (m, 4H).

reactant | 1,2-dibromoethane | 0.500 mmol, 0.094 g | BrCCBr | C2H4Br2
reactant | tetrahydro-2H-pyran-2-one | 5 mmol, 0.501 g | O1C(CCCC1)=O | C5H8O2
reactant | ethyl 2-bromo-2,2-difluoroacetate | 6.0 mmol, 1.218 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
catalyst | zinc | 20.00 mmol, 1.308 g | [Zn] | Zn
catalyst | titanocene dichloride | 0.250 mmol, 0.062 g | [Cl-].[Cl-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Ti+2]
product | ethyl 2,2-difluoro-2-(2-hydroxytetrahydro-2H-pyran-2-yl)acetate | 365 mg, 32.5% | FC(C(=O)OCC)(C1(OCCCC1)O)F | C9H14F2O4
